US05559141
a) 4-[3-(4-cyanophenyl)-3-(4-trifiuoromethylphenyl)-2-propenyl]-1H-imidazole
4-[3-(4-tert-butylaminocarbonylphenyl)-3-(4-trifluoromethylphenyl)-3-hydroxypropyl]-1H-imidazole is refluxed with PCl5 (1,2 eqv) in dry acetonitrile to give the product. Yield 97%.

reactant | 4-[3-(4-tert-butylaminocarbonylphenyl)-3-(4-trifluoromethylphenyl)-3-hydroxypropyl]-1H-imidazole | C(C)(C)(C)NC(=O)C1=CC=C(C=C1)C(CCC=1N=CNC1)(O)C1=CC=C(C=C1)C(F)(F)F | C24H26F3N3O2
reactant | PCl5 | 1,2 eqv | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-[3-(4-cyanophenyl)-3-(4-trifiuoromethylphenyl)-2-propenyl]-1H-imidazole | Yield 97% | C(#N)C1=CC=C(C=C1)C(=CCC=1N=CNC1)C1=CC=C(C=C1)C(F)(F)F | C20H14F3N3
